US09388138B2
2-Ethylquino line
sec-Butyllithium (1.3 M in cyclohexane, 19.3 mL, 25.1 mmol, 1.2 eq.) was added dropwise to a 0° C. solution of 2-methylquinoline (2.84 mL, 3.0 g, 21.0 mmol, 1.0 eq.) in dry diethyl ether (75 mL). After the addition was complete the cooling bath was removed and the mixture was stirred at r.t. for 1.5 h. The reaction mixture was cooled to 0° C. and methyl iodide (1.96 mL, 4.46 g, 31.4 mmol, 1.5 eq.) was added dropwise. After the addition was complete the cooling bath was removed and the reaction was stirred at r.t. for 3 h. Water (50 mL) was added and the layers were separated. The aqueous layer was extracted with ethyl acetate (2×30 mL). The combined organic extracts were washed with brine (50 mL) and were dried over sodium sulfate and concentrated under reduced pressure which gave the crude product (4.82 g) as an orange oil. The crude product was purified by column chromatography (SiO2, 1:5 ethyl acetate-cyclohexane) which yielded the product (3.03 g, 92% yield) as a clear yellow oil; 1H NMR (500 MHz, CDCl3) δ 1.41 (t, J=7.5 Hz, 3H, CH3), 3.01 (q, J=7.5 Hz, 2H, CH2), 7.31 (d, J=8.5 Hz, 1H, Ar), 7.48 (t, J=7.5 Hz, 1H, Ar), 7.68 (t, J=7.5 Hz, 1H, Ar), 7.77 (d, J=8.0 Hz, 1H, Ar), 8.04 (d, J=8.5 Hz, 1H, Ar), 8.07 (d, J=8.5 Hz, 1H, Ar).

reactant | sec-Butyllithium | 25.1 mmol, 1.3 M, 19.3 mL, 1.2 eq. | C(C)(CC)[Li]
reactant | 2-methylquinoline | 21.0 mmol, 2.84 mL, 3.0 g, 1.0 eq. | CC1=NC2=CC=CC=C2C=C1 | C10H9N
reactant | methyl iodide | 31.4 mmol, 1.96 mL, 4.46 g, 1.5 eq. | CI | CH3I
solvent | diethyl ether | 75 mL | C(C)OCC | C4H10O
product | 2-Ethylquino line | 3.03 g, 92% yield | C(C)C1=NC2=CC=CC=C2C=C1 | C11H11N
